US07829560B2
3-Fluoro-5-piperidin-1-yl-N-{4-[(2-piperidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide (Compound B375).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and piperidine according to conditions described in general procedure C. 1H NMR (400 MHz, DMSO-d6) δ 1.34-1.58 (m, 12 H), 3.21-3.35 (m, 8 H), 6.18 (d, J=5.5 Hz, 1 H), 6.95 (d, J=12.4 Hz, 1 H), 7.15 (d, J=10.6 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.55-7.60 (m, 3 H), 7.81-7.83 (m, 1 H), 7.97 (d, J=7.3 Hz, 1 H), 8.24 (d, J=5.5 Hz, 1 H), 10.43 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-Fluoro-5-piperidin-1-yl-N-{4-[(2-piperidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCCCC2)C=C(C1)N1CCCCC1 | C31H32FN5O2
